US05955471
N-tert-Butyloxycarbonyl-3-thiocarbamoyloxymethyl-1,2,3,4-tetrahydroisoquinoline
To N-tert-Butyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline (9 g) dissolved in tetrahydrofuran (200 mL) at 0° C. was added sodium hydride (60% in mineral oil 1.64 g). The mixture wa stirred for 50 minutes then, carbon disulfide (2.5 mL) was added and stirred for an additional 1 hour. Then methyl iodide (2.55 mL) was added and after two hours ammonium hydroxide (28% solution, 10.4 mL) was added. After overnight stirring, brine was added, the mixture was extracted with methylene chloride and the extract concentrated to yield the product as a solid (5.6 g).

reactant | N-tert-Butyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | 9 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1CO | C15H21NO3
reactant | sodium hydride | 1.64 g | [H-].[Na+]
reactant | methyl iodide | 2.55 mL | CI | CH3I
reactant | ammonium hydroxide | 10.4 mL | [OH-].[NH4+]
reactant | carbon disulfide | 2.5 mL | C(=S)=S | CS2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | N-tert-Butyloxycarbonyl-3-thiocarbamoyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 5.6 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1COC(N)=S | C16H22N2O3S
